US06329392B1
1-Benzoyl-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.54 g, 1.3 mmol) and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.46 g, 1.4 mmol), and sodium bicarbonate (0.2 g, 2.5 mmol) in tetrahydrofuran/water (15/4) (30 mL). Heat to reflux. After 48 hours, cool to ambient temperature. After 72 hours, evaporate in vacuo to obtain a residue. Partition the residue between dichloromethane/chloroform and 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5/1 ethyl acetate/methanol to give a solid. Combine the solid with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Dry the residue in vacuo at 82° C. to give the title compound: Rf=0.28 (silica gel, 5/1 ethyl acetate/methanol); mp; 88-90° C. Elemental Analysis calculated for C41H43FN4O4: C 72.20; H 6.47; N 8.21; Found: C 71.96; H 6.38; N 8.17.

reactant | 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.3 mmol, 0.54 g | C(C1=CC=CC=C1)(=O)N1CC(CC1)(CCS(=O)(=O)C)C1=CC(=C(C=C1)OC)OC | C22H27NO5S
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 1.4 mmol, 0.46 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
reactant | sodium bicarbonate | 2.5 mmol, 0.2 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran water | 30 mL | O1CCCC1.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Benzoyl-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC(=C(C=C1)OC)OC)CCN1CCC(CC1)C(=O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C41H43FN4O4
